US07304062B2
2-(4-{3-[1-(3,4-Dimethylphenylmethyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid
2-(4-{3-[1-(3,4-Dimethylphenylmethyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid ethyl ester (916 mg, 1.97 mmol) was dissolved in ethanol (10 mL) and 2N NaOH (3.0 mL, 6.0 mmol) was added in one portion. The solution was stirred at room temperature for one hour, then concentrated to a hazy colorless oil. This oil was partitioned between 1N HCl (10 mL) and ethyl acetate (10 mL). The aqueous layer was then reextracted with ethyl acetate (10 mL). Solids precipitated from this solution on stirring. The slurry was cooled to 0° C., filtered and dried in vacuo at 50° C. overnight to afford the title compound as a white solid (695 mg, 80%): mp 145.8-149.6° C.; 1H-NMR (DMSO-d6) δ 12.98 (s, 1H), 7.05 (dd, 3H, J=8.5, 3.0 Hz), 7.00 (s, 1H), 6.93 (d, 1H, J=7.5 Hz), 6.73 (d, 2H, J=8.5 Hz), 4.73 (s, 2H), 2.52 (t, 2H, J=7.5 Hz), 2.47 (t, 2H, J=7.5 Hz), 2.14 (s, 6H), 1.80 (quint, 2H, J=7.5 Hz), 1.46 (s, 6H); 13C NMR (DMSO-d6, 20° C.) δ 175.8, 154.1, 154.0, 147.1, 136.8, 135.9, 135.3, 135.2, 130.1, 129.7, 129.4, 125.7, 119.2, 78.9, 48.4, 34.1, 27.7, 27.6, 25.7, 25.1, 20.0, 19.7; IR (CHCl3) 2936, 2490, 1730, 1658, 1510, 1148 cm−1; Anal. Calcd. for C25H31N3O4: C, 68.63; H, 7.14; N, 9.60. Found: C, 68.23; H, 7.01; N, 9.44.

reactant | 2-(4-{3-[1-(3,4-Dimethylphenylmethyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid ethyl ester | 1.97 mmol, 916 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1=NN(C(N1)=O)CC1=CC(=C(C=C1)C)C)=O | C26H33N3O4
reactant | NaOH | 6.0 mmol, 2N, 3.0 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-{3-[1-(3,4-Dimethylphenylmethyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid | 695 mg, 80% | CC=1C=C(C=CC1C)CN1N=C(NC1=O)CCCC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C24H29N3O4
